US04409228
A mixture of 0.116 moles of 2-chloro-6-phenoxypyridine, 21.5 g of anhydrous potassium carbonate, 0.151 moles of 4-acetamidopyridine and 0.118 mole of copper in powder form in 100 ml of sulfolane is heated to 150° C. with stirring for 40 hours. The sulfolane is distilled, the residue is taken up with water, the suspension is treated with water and it is extracted with methylene chloride. The organic phase is washed with water, dried and concentrated to dryness. By crystallisation of the residue in diisopropylic ether, 4-acetamido-2-(6-phenoxy-2-pyridyl)piperidine is obtained; m.p. 104° to 106° C.

reactant | 2-chloro-6-phenoxypyridine | 0.116 moles | ClC1=NC(=CC=C1)OC1=CC=CC=C1 | C11H8ClNO
reactant | potassium carbonate | 21.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-acetamidopyridine | 0.151 moles | C(C)(=O)NC1=CC=NC=C1 | C7H8N2O
solvent | sulfolane | 100 ml | S1(=O)(=O)CCCC1 | C4H8O2S
catalyst | copper | 0.118 mole | [Cu] | Cu
product | 4-acetamido-2-(6-phenoxy-2-pyridyl)piperidine | Yield: 30% | C(C)(=O)NC1CC(NCC1)C1=NC(=CC=C1)OC1=CC=CC=C1 | C18H21N3O2
